* C:\Users\vtolentino\Documents\test\Kicad\Blog\001-Bipolar_Amplifier\01_Simulation\Draft4.asc
V1 in 0 SINE(0 0.1 {fin}) AC 1
R1 N001 in 1
L1 0 out 1.59µ
C1 N001 out 1.59p
.tran 10m
.step param fin list 10k 100k 100e6 1e9
.backanno
.end
