* C:\Users\vtolentino\Documents\test\Kicad\Projects\CameraSystem\Simulations\Draft3.asc
V1 N001 0 PWL(0 0 5m 0 {ramp} 18 1 18) Rser=10m
C1 out N003 100n
R1 N003 0 10k
R2 N003 vb 100
C2 vb 0 10n
Q1 EN vb 0 0 2N4124
R3 N001 EN 47k
M1 out N002 N001 N001 BSC014N03LS
R4 N001 N002 10k
Q2 N002 EN 0 0 2N2222
R5 N002 EN 10k
.model NPN NPN
.model PNP PNP
.lib \\pfde-netapp2.eu.p-f.biz\home\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib \\pfde-netapp2.eu.p-f.biz\home\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 40m
.step param ramp 10m 40m 2m
.backanno
.end
