* C:\Users\vtolenti89\Documents\Projects\Kicad\Projects\CameraSystem\Simulations\bc546_pull-down.asc
Q1 rst N001 0 0 BC846B
R1 N001 0 10k
R2 vcc rst 10k
R3 N001 uc 4.7k
V1 uc 0 PULSE(0 3.3 4m 1m 1m 5m 10m)
V2 vcc 0 3.3
.model NPN NPN
.model PNP PNP
.lib C:\Users\vtolenti89\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 15m
.backanno
.end
