* C:\Users\vtolenti89\Documents\Projects\Kicad\Projects\CameraSystem\Simulations\serial_diode.asc
XU1 out in DI_BZX84C3V3
R1 in out 10k
C1 out in2 100n
V1 in 0 PULSE(0 3.3 0 1m 1m 1 2)
V2 in2 0 PULSE(0 3.3 0 0 1m 4m 2)
.tran 10m
.lib C:\Users\vtolenti89\Downloads\BZX84C3V3.spice.txt
.backanno
.end
