* C:\Users\vtolentino\Documents\test\Kicad\Projects\FM_Disturber\01-Simulation\01-biasing_2N3904.asc
V1 c 0 3
I1 0 b 3µ
Q1 c b 0 0 2N3904
.model NPN NPN
.model PNP PNP
.lib \\pfde-netapp2.eu.p-f.biz\home\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.dc v1 0 3 0.01 i1 2u 5u 0.1u
;.step temp -20 85 1
;.temp 23
.op
;.dc v1 0 3 0.01 i1 2u 5u 0.1u
.backanno
.end
